US04003750
1,3-Dihydro-3-methyl-4-phenylpyrido[2,1-b]-5-phenylbenzoxazolium bromide is prepared by reacting 3-(2-acetylethyl)-2-benzyl-5-phenylbenzoxazolium bromide (5.0 g.) dissolved in 75 ml. of acetonitrile. The reaction mixture is stirred at about 30° C for about 124 hours, after which ether is added to the solution and the resultant precipitate is filtered, washed and dried to give 4.27 g. (93% yield) of 1,2-dihydro-3-methyl-4,8-diphenylpyrido[2,1-b]benzoxazolium bromide having a melting point of 269° C. This product is dissolved in 20 ml. of dimethyl sulfoxide and heated for a few minutes on a hot plate. Sodium perchlorate (0.6 g.) in 20 ml. of ethanol is added with stirring. Excess diethyl ether is added, precipitating an oil. Crystallization of the oily substance is induced from a chloroform-ether solution. Recrystallization from ethanol affords a 70% yield of product having a melting point of 252°-254° C.

reactant | 3-(2-acetylethyl)-2-benzyl-5-phenylbenzoxazolium bromide | 5.0 g | [Br-].C(C)(=O)CC[N+]1=C(OC2=C1C=C(C=C2)C2=CC=CC=C2)CC2=CC=CC=C2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 1,2-dihydro-3-methyl-4,8-diphenylpyrido[2,1-b]benzoxazolium bromide | 93% yield | [Br-].CC1=C(C=2OC3=C([N+]2CC1)C=C(C=C3)C3=CC=CC=C3)C3=CC=CC=C3 | InChI=1S/C24H20NO.BrH/c1-17-14-15-25-21-16-20(18-8-4-2-5-9-18)12-13-22(21)26-24(25)23(17)19-10-6-3-7-11-19;/h2-13,16H,14-15H2,1H3;1H/q+1;/p-1
